US09078444B2
Preparation of 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-N-[(E)-ethoxyiminomethyl]-2-methyl-benzamide (C2)
A solution of 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzamide (200 mg) and N,N-Dimethylformamide dimethylacetal (4 mL) was refluxed under Argon for one hour then the solution was concentrated in vacuo. The residue was dissolved in 1,4-dioxane (2 mL) and a solution of O-ethylhydroxylamine hydrochloride (2.8 eq.) and sodium hydroxide (6 eq.) in water (1.6 mL) and acetic acid (1.6 mL) was added. The solution was stirred at rt for 10 minutes. It was then quenched by addition of water and extracted with methyl tert-butyl ether. The combined organic extracts were washed with brine, dried over magnesium sulfate and evaporated. Flash Chromatography eluting with Cyclohexane:EtOAc afforded 237 mg of the title compound.

reactant | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzamide | 200 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NS1)C1=CC(=C(C(=O)N)C=C1)C)C(F)(F)F | C18H13Cl2F3N2OS
reactant | N,N-Dimethylformamide dimethylacetal | 4 mL | COC(N(C)C)OC | C5H13NO2
reactant | O-ethylhydroxylamine hydrochloride | 2.8 eq. | Cl.C(C)ON
reactant | sodium hydroxide | 6 eq. | [OH-].[Na+]
solvent | water | 1.6 mL | O | H2O
solvent | acetic acid | 1.6 mL | C(C)(=O)O | C2H4O2
product | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-N-[(E)-ethoxyiminomethyl]-2-methyl-benzamide | 237 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NS1)C1=CC(=C(C(=O)N/C=N/OCC)C=C1)C)C(F)(F)F | C21H18Cl2F3N3O2S
